* source TEST
V_V1         N14484 0  AC 0
+SIN 0 1 915e6 0 0 0
R_R1         N14484 N14516  50 TC=0,0 
R_R2         N14455 N14520  52 TC=0,0 
C_C1         0 N14516  34.1p  TC=0,0 
C_C2         0 N14520  33.6p  TC=0,0 
L_L1         N14516 N14520  1.77n  
L_L2         N14455 0  0.3478n  
